US08008481B2
[1,1′-Bis(diphenylphosphino)-ferrocene)dichloropalladium(II) 1:1 complex with dichloromethane (408 mg, 0.50 mmol) was added to a mixture of methyl 5-bromo-1-(4-methoxy-benzyl)-1H-indazole-7-carboxylate ester and methyl 5-bromo-2-(4-methoxy-benzyl)-2H-indazole-7-carboxylate (Preparations #11 and 12, 1:1, 3.99 g, 9.45 mmol), cesium carbonate (9.75 g, 30.0 mmol) and N′-(1-benzenesulfonyl-3-bromo-1H-pyrrolo[2,3-c]pyridin-5-yl)-N,N-dimethyl-formamidine (Preparation #10, 3.85 g, 9.45 mmol) in 1,2-dimethoxyethane (100 mL) and water (25 mL) under an atmosphere of N2. The reaction mixture was heated at about 90° C. for about 4 hours. The reaction was cooled to ambient temperature and the layers separated. The organic layer was filtered through a silica gel pad, eluting with 5% MeOH/EtOAc and the filtrate was concentrated under reduced pressure. The residue was dissolved in trifluoroacetic acid (50 mL) containing triisopropylsilane (2.05 ml, 10.0 mmol) and the mixture was heated in a sealed tube at about 100° C. for about 30 minutes then cooled to ambient temperature and concentrate under reduced pressure. The residue was triturated with ether (100 mL) and the resulting solid was collected by filtration. The solid was then dissolved in methanol (75 mL), treated with aqueous sodium hydroxide (2N, 50 ml, 100 mmol) and heated at reflux for about 6 hours. The reaction was filtered hot, then cooled and acidified with acetic acid to about pH 5.5. The product was filtered off, washed with water (2×10 mL) and dried to yield 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxylic acid (2.60 g, 78%) as the acetate salt. The acetate salt was dissolved in methanol (300 mL) and aqueous HCl (2N, 25 mL) was added. The mixture was concentrated and dried to yield 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxylic acid monohydrochloride (2.35 g, 75%) as a pale yellow solid. RP HPLC (Table 1, Method e) Rt=1.31, m/z: (MH)+ 294.

reactant | dichloromethane | 0.50 mmol, 408 mg | ClCCl | CH2Cl2
reactant | methyl 5-bromo-2-(4-methoxy-benzyl)-2H-indazole-7-carboxylate | 9.45 mmol, 3.99 g | BrC1=CC2=CN(N=C2C(=C1)C(=O)OC)CC1=CC=C(C=C1)OC | C17H15BrN2O3
reactant | cesium carbonate | 30.0 mmol, 9.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N′-(1-benzenesulfonyl-3-bromo-1H-pyrrolo[2,3-c]pyridin-5-yl)-N,N-dimethyl-formamidine | 9.45 mmol, 3.85 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=CN=C(C2)N=CN(C)C)Br | C16H15BrN4O2S
reactant | triisopropylsilane | 10.0 mmol, 2.05 ml | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | sodium hydroxide | 100 mmol, 2N, 50 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | [1,1′-Bis(diphenylphosphino)-ferrocene)dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(5-amino-1H-pyrrolo[2,3-c]pyridin-3-yl)-1H-indazole-7-carboxylic acid | 2.60 g, 78% | NC=1C=C2C(=CN1)NC=C2C=2C=C1C=NNC1=C(C2)C(=O)O | C15H11N5O2
